USH0001759
Step (b) Synthesis of 4-ethyl-2-(1,3-dioxan-4-ylmethoxy)benzaldehyde
A stirred solution of 3.8 grams (0.026 mole) of 5-ethyl-2-formylphenol, 5.0 grams (0.026 mole) of 4-methylsulfonyloxymethyl-1,3-dioxane, and 7.0 grams (0.051 mole) of potassium carbonate in 150 mL of N,N-dimethylformamide was heated at 80° C. for about 18 hours. Analysis by thin layer chromatography (TLC) indicated the reaction was not complete. An additional 2.5 grams (0.013 mole) of 4-methylsulfonyloxymethyl-1,3-dioxane was added, and the reaction mixture was heated at 80° C. for an additional five hours. After this time the reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with aqueous 10% lithium chloride, dried with magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was purified by column chromatography on silica gel, yielding 3.6 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 5-ethyl-2-formylphenol | 0.026 mole, 3.8 grams | C(C)C=1C=CC(=C(C1)O)C=O | C9H10O2
reactant | 4-methylsulfonyloxymethyl-1,3-dioxane | 0.026 mole, 5.0 grams | CS(=O)(=O)OCC1OCOCC1 | C6H12O5S
reactant | potassium carbonate | 0.051 mole, 7.0 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methylsulfonyloxymethyl-1,3-dioxane | 0.013 mole, 2.5 grams | CS(=O)(=O)OCC1OCOCC1 | C6H12O5S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 4-ethyl-2-(1,3-dioxan-4-ylmethoxy)benzaldehyde | 3.6 grams | C(C)C1=CC(=C(C=O)C=C1)OCC1OCOCC1 | C14H18O4
